US06350771B1
To a stirred solution of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboximidic acid methyl ester (1.0 g) in anhydrous methanol was added anhydrous methoxylamine hydrochloride (0.2 g). After 4 hours at 20° C., the mixture was evaporated and dichloromethane and water added. The organic layer was dried (MgSO4), evaporated and chromatographed on a florisil column, eluting with 3:1 dichloromethane/ethyl acetate to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-N-methoxy-4-methylsulfinyl-1H-pyrazole-3-carboximidamide(0.28 g),m.p. 140-145° C.Compound 49. By proceeding in a similar manner the following compounds were prepared:5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-N-methoxy-4-trifluoromethylsulfinyl-1H-pyrazole-3-carboximidamide, m.p. 169-170° C. Compound 41; and 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-N-hydroxy-4-trifluoromethylsulfinyl-1H-pyrazole-3-carboximidamide, m.p. 222-224° C. Compound 40.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboximidic acid methyl ester | 1.0 g | COC(=N)C1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H11Cl2F3N4O2S
reactant | methoxylamine hydrochloride | 0.2 g | Cl.O(C)N
solvent | methanol | CO | CH4O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-N-methoxy-4-methylsulfinyl-1H-pyrazole-3-carboximidamide | 0.28 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(NOC)=N)S(=O)C | C13H12Cl2F3N5O2S
